US08003685B2
To a solution of 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(4-trimethylsilanyl-[1,2,3]triazol-1-yl)-cyclohexyl]-amino]-thiophene-2-carboxylic acid methyl ester (0.48 g, 0.82 mmol) in THF (2.0 ml) is added TBAF 1.0 M in THF (1.23 ml, 1.23 mmol). The reaction mixture is stirred for 24 h and treated with water and saturated ammonium chloride solution. The aqueous layer is extracted with ethyl acetate. The organic layer is washed with brine, dried with sodium sulfate, filtered and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (50% ethyl acetate/hexane to 100% ethyl acetate) to give 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(trans-4-[1,2,3]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester.

reactant | 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(4-trimethylsilanyl-[1,2,3]triazol-1-yl)-cyclohexyl]-amino]-thiophene-2-carboxylic acid methyl ester | 0.82 mmol, 0.48 g | COC(=O)C=1SC(=CC1N([C@@H]1CC[C@H](CC1)N1N=NC(=C1)[Si](C)(C)C)C(=O)[C@@H]1CC[C@H](CC1)C)C#CC(C)(C)C | C31H46N4O3SSi
reactant | TBAF | 1.0 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
solvent | THF | 1.23 mmol, 1.23 ml | C1CCOC1 | C4H8O
product | 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(trans-4-[1,2,3]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N([C@@H]1CC[C@H](CC1)N1N=NC=C1)C(=O)[C@@H]1CC[C@H](CC1)C)C#CC(C)(C)C | C28H38N4O3S
